US07226942B2
Part I: 3-Benzyloxycarbonylamino-1-hydroxy-1-methanesulfonylmethyl-1,2,3,4-tetrahydronaphthalene
To a solution of methyl sulfone (64 mg) in tetrahydrofuran (4 mL) stirring at −78° C. under nitrogen was slowly added lithium hexamethyldisilazide (1.0 M tetrahydrofuran solution, 0.67 mL). The resulting mixture was stirred for 1 h to form lithio methyl sulfone, and then a solution of 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene (40 mg) in tetrahydrofuran (0.4 mL) was added. Upon completion of addition, the resulting mixture was stirred for 30 min at −78° C. After this time, the reaction mixture was allowed to warm to room temperature at which it was stirred for 16 h. At the conclusion of this period, the reaction mixture was analyzed by HPLC, which indicated that starting material was still present. The reaction mixture was again cooled to −78° C. and additional lithio methyl sulfone mixture (prepared from methyl sulfone, 64 mg, in the manner set forth above) was added. The resulting mixture was stirred for 30 minutes and then analyzed by HPLC, which indicated that the starting material had been consumed. The reaction mixture was quenched at −78° C. with saturated aqueous ammonium chloride solution, warmed to room temperature, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated under vacuum to yield a residue. The residue was purified by reverse phase preparative HPLC (trifluoroacetic acid containing solvents were used) to obtain the title compound (23 mg) as a racemic diastereomeric mixture, predominantly the diastereomer leading to Example 12 that results from nucleophilic addition of lithio methyl sulfone to the carbonyl of 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene anti to the benzyloxycarbonylamino group.

reactant | 3-benzyloxycarbonylamino-1-oxo-1,2,3,4-tetrahydronaphthalene | 40 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)=O | C18H17NO3
reactant | lithio methyl sulfone | CS(=O)(=O)[Li]
reactant | methyl sulfone | CS(=O)(=O)C | C2H6O2S
solvent | tetrahydrofuran | 0.4 mL | O1CCCC1 | C4H8O
product | 3-Benzyloxycarbonylamino-1-hydroxy-1-methanesulfonylmethyl-1,2,3,4-tetrahydronaphthalene | 23 mg | C(C1=CC=CC=C1)OC(=O)NC1CC(C2=CC=CC=C2C1)(CS(=O)(=O)C)O | C20H23NO5S
